### PR TITLE
Submodule

### PR DESCRIPTION
**Pull request by fpvandoorn**
Define submodules and start on kernels and images.

Also did some cleanup in `Monoids_and_Groups.v`, such as removing `Unset Automatic Introduction.` and making the unique argument of `submonoid` (and similar) explicit.

This pr has conflicts with #816, which I resolved in the branch https://github.com/fpvandoorn/UniMath/tree/submodule-langston.

### CODE REVIEW

**Comment by benediktahrens** [comment]
The file `Submodule.v` needs to be added to the list of files in `Algebra/.package/files`.

**Comment by fpvandoorn** [comment]
Updated pr

File: UniMath/Algebra/Modules/Core.v [hunk 1]
```diff
@@ -288,6 +289,11 @@ Identity Coercion id_module_struct : module_struct >-> rngfun.
 
 Definition modulepair {R : rng} (G : abgr) (f : module_struct R G) : module R := tpair _ G f.
 
+Lemma isasetmodule {R : rng} (M : module R) : isaset M.
+Proof.
+  exact (pr2 (pr1 (pr1 (pr1 M)))).
```
Comment (siddharthist) [inline UniMath/Algebra/Modules/Core.v]: Could accessor functions be used here?

File: UniMath/Algebra/Modules/Submodule.v [hunk 2]
```diff
@@ -0,0 +1,124 @@
...
+Require Import UniMath.MoreFoundations.Subtypes.
+
+(** ** Contents
+- Subobjects of modules
+- Kernels
+- Images
+*)
+
+Definition issubsetwithsmul {R : hSet} {M : hSet} (smul : R → M → M) (A : hsubtype M) : UU :=
+∏ r m, A m → A (smul r m).
```
Comment (siddharthist) [inline UniMath/Algebra/Modules/Submodule.v]: I think it's more customary to indent these by two spaces, but it's not a show-stopper.

File: UniMath/Algebra/Modules/Submodule.v [hunk 3]
```diff
@@ -0,0 +1,124 @@
...
+    apply impred. intro m.
+    apply impred. intro a.
+    apply (pr2 (A _)).
+Defined.
+
+(* Submodules *)
+
+Definition submodule {R : rng} (M : module R) : UU := total2 (λ A : hsubtype M, issubmodule A).
+
+Definition submodulepair {R : rng} {M : module R} :
```
Comment (siddharthist) [inline UniMath/Algebra/Modules/Submodule.v]: Anticipating @mortberg's new contributions to `STYLE.md`, one might want to call this `mk_submodule`. This also has the benefit of being implementation-agnostic, in the sense that the name makes sense even if a submodule were a `Record` or something.

File: UniMath/Algebra/Modules/Submodule.v [hunk 4]
```diff
@@ -0,0 +1,124 @@
...
+  λ A : _, subgrpair (pr1 A) (pr1 (pr2 A)).
+Coercion submoduletosubabgr : submodule >-> subabgr.
+
+Local Open Scope module_scope.
+
+Definition submodule_smul {R : rng} {M : module R} {A : submodule M} (r : R) (m : A) : A.
+Proof.
+  use tpair.
+  exact (r * pr1 m).
+  exact (pr2 (pr2 A) r (pr1 m) (pr2 m)).
```
Comment (siddharthist) [inline UniMath/Algebra/Modules/Submodule.v]: Could accessor functions be used here?

File: UniMath/Algebra/Modules/Submodule.v [hunk 5]
```diff
@@ -0,0 +1,124 @@
...
+
+
+(* Kernel and image *)
+Lemma issubmodule_kernel {R : rng} {A B : module R} (f : modulefun A B) :
+  issubmodule (abgr_kernel_hsubtype (modulefun_to_monoidfun f)).
+Proof.
+  split.
+  apply abgr_Kernel_subabgr_issubgr.
+  intros r x. apply hinhfun. cbn. intro p.
+  now rewrite (pr2 (pr2 f)), p, module_mult_1.
```
Comment (siddharthist) [inline UniMath/Algebra/Modules/Submodule.v]: Could accessor functions be used here?

File: UniMath/Algebra/Monoids_and_Groups.v [hunk 6]
```diff
@@ -2201,44 +2180,128 @@ Opaque abgr_univalence.
...
-Definition carrierofasubabgr {X : abgr} (A : @subabgr X) : abgr.
-Proof. intros. split with A. apply isabgrcarrier. Defined.
+Definition carrierofasubabgr {X : abgr} (A : subabgr X) : abgr.
+Proof. split with A. apply isabgrcarrier. Defined.
 Coercion carrierofasubabgr : subabgr >-> abgr.
 
+Definition subabgr_incl {X : abgr} (A : subabgr X) : monoidfun A X :=
+  submonoid_incl A.
+
+  Definition abgr_kernel_hsubtype {A B : abgr} (f : monoidfun A B) : hsubtype A :=
```
Comment (siddharthist) [inline UniMath/Algebra/Monoids_and_Groups.v]: It looks like this is indented. It might be good to put it in a `Section`, or to un-indent it.

File: UniMath/Algebra/Modules/Core.v (hunk 1 above)
Comment (fpvandoorn) [reply UniMath/Algebra/Modules/Core.v]: This is the definition of the accessor function. Or do you mean define `isasetabgroup` or something?

**Comment by fpvandoorn** [comment]
Updated pr. Fixed all comments to which I didn't reply.

File: UniMath/Algebra/Modules/Submodule.v (hunk 3 above)
Comment (fpvandoorn) [reply UniMath/Algebra/Modules/Submodule.v]: We need to go through the whole algebra library and do this systematically. For now, I haven't changed this, so that we are at least consistent with `subgr`, `submonoid` etc.

File: UniMath/Algebra/Modules/Core.v (hunk 1 above)
Comment (siddharthist) [reply UniMath/Algebra/Modules/Core.v]: @fpvandoorn Yes, something more in that style. That way, if the data structure is changed, the code still works. It also makes it easier to understand what it does from just looking at it.

File: UniMath/Algebra/Modules/Submodule.v (hunk 3 above)
Comment (siddharthist) [reply UniMath/Algebra/Modules/Submodule.v]: Sounds good!

File: UniMath/Algebra/Modules/Submodule.v [hunk 7]
```diff
@@ -0,0 +1,131 @@
...
+  now rewrite (modulefun_to_islinear f), p, module_mult_1.
+Defined.
+
+Definition module_kernel {R : rng} {A B : module R} (f : modulefun A B) : submodule A :=
+  submodulepair _ (issubmodule_kernel f).
+
+Lemma module_kernel_eq {R : rng} {A B : module R} (f : modulefun A B) x :
+  f (submodule_incl (module_kernel f) x) = unel B.
+Proof.
+  unshelve refine (@hinhuniv _ (tpair _ _ _) _ (pr2 x)).
```
Comment (benediktahrens) [inline UniMath/Algebra/Modules/Submodule.v]: use 
```
 use (squash_to_prop (pr2 x)).
```
instead.

**Comment by fpvandoorn** [comment]
Oops. I fixed it (and another place where I got an error).

**Comment by benediktahrens** [comment]
On 12/16/2017 06:15 PM, Floris van Doorn wrote:
> Oops. I fixed it (and another place where I got an error).
> 

Thanks; now there is a conflict in Monoids_and_Groups.

**Comment by fpvandoorn** [comment]
Merge conflict or compilation error?

**Comment by benediktahrens** [comment]
On 12/16/2017 06:20 PM, Floris van Doorn wrote:
> Merge conflict or compilation error?
> 

Merge conflict

**Comment by fpvandoorn** [comment]
I think it's OK now.

File: UniMath/Algebra/Modules/Submodule.v [hunk 8]
```diff
@@ -0,0 +1,131 @@
...
+
+Definition submodule_to_issubsetwithsmul {R : rng} {M : module R} (A : submodule M) :
+  issubsetwithsmul (module_mult M) A :=
+  pr2 (pr2 A).
+
+Local Open Scope module_scope.
+
+Definition submodule_smul {R : rng} {M : module R} {A : submodule M} (r : R) (m : A) : A.
+Proof.
+  use tpair.
```
Comment (benediktahrens) [inline UniMath/Algebra/Modules/Submodule.v]: Insert bullets.

File: UniMath/Algebra/Modules/Submodule.v [hunk 9]
```diff
@@ -0,0 +1,131 @@
...
+
+Definition submodule_incl {R : rng} {M : module R} (A : submodule M) : modulefun A M :=
+  modulefunpair _ (ismodulefun_pr1 A).
+
+
+(* Kernel and image *)
+Lemma issubmodule_kernel {R : rng} {A B : module R} (f : modulefun A B) :
+  issubmodule (abgr_kernel_hsubtype (modulefun_to_monoidfun f)).
+Proof.
+  split.
```
Comment (benediktahrens) [inline UniMath/Algebra/Modules/Submodule.v]: insert bullets

File: UniMath/Algebra/Modules/Submodule.v [hunk 10]
```diff
@@ -0,0 +1,131 @@
...
+Proof.
+   use (squash_to_prop (pr2 x)).
+  - apply isasetmodule.
+  - apply idfun.
+Defined.
+
+Lemma issubmodule_image {R : rng} {A B : module R} (f : modulefun A B) :
+  issubmodule (abgr_image_hsubtype (modulefun_to_monoidfun f)).
+Proof.
+  split.
```
Comment (benediktahrens) [inline UniMath/Algebra/Modules/Submodule.v]: insert bullets

File: UniMath/Algebra/Monoids_and_Groups.v [hunk 11]
```diff
@@ -447,11 +433,22 @@ Proof.
   + exact (λ i, pr2 (each_is_submonoid i)).
 Qed.
 
+(* Lemma ismonoidfun_pr1 {X : monoid} (A : submonoid X) : ismonoidfun (pr1submonoid X A). *)
+(* ismonoidfunconstr _ _. *)
+
+Lemma ismonoidfun_pr1 {X : monoid} (A : submonoid X) : @ismonoidfun A X pr1.
+Proof.
+  use mk_ismonoidfun; easy.
```
Comment (benediktahrens) [inline UniMath/Algebra/Monoids_and_Groups.v]: don't use `easy`

File: UniMath/Algebra/Modules/Core.v [hunk 12]
```diff
@@ -340,13 +340,25 @@ Proof.
   apply grinv_path_from_op_path. now rewrite <- module_mult_is_ldistr, grrinvax, module_mult_1.
 Defined.
 
-(* Definition module_mult_neg1 {R : rng} {M : module R} (x : M) : rngminus1 * x = @grinv _ x. *)
+Lemma module_mult_neg1 {R : rng} {M : module R} (x : M) : rngminus1 * x = @grinv _ x.
+Proof.
+  symmetry. apply grinv_path_from_op_path.
```
Comment (benediktahrens) [inline UniMath/Algebra/Modules/Core.v]: prefer `apply pathsinv0` over `symmetry`

File: UniMath/Algebra/Modules/Core.v [hunk 13]
```diff
@@ -340,13 +340,25 @@ Proof.
...
+  refine (maponpaths (λ y, y * _)%multmonoid (!(module_mult_unel2 x)) @ _).
+  now rewrite <- module_mult_is_rdistr, rngrinvax1, module_mult_0_to_0.
```
Comment (benediktahrens) [inline UniMath/Algebra/Modules/Core.v]: don't use `now`

File: UniMath/Algebra/Modules/Core.v [hunk 14]
```diff
@@ -340,13 +340,25 @@ Proof.
...
+Defined.
 
-(* Definition module_inv_mult_to_inv1 {R : rng} {M : module R} (r : R) (x : M) : *)
-(*   @grinv _ (r * x) = rnginv1 r * x. *)
+Lemma module_inv_mult_to_inv1 {R : rng} {M : module R} (r : R) (x : M) :
+  @grinv _ (r * x) = rnginv1 r * x.
+Proof.
+  apply grinv_path_from_op_path.
+  now rewrite <- module_mult_is_rdistr, rngrinvax1, module_mult_0_to_0.
```
Comment (benediktahrens) [inline UniMath/Algebra/Modules/Core.v]: don't use `now`

File: UniMath/Algebra/Modules/Core.v [hunk 15]
```diff
@@ -340,13 +340,25 @@ Proof.
...
+Defined.
 
-(* Definition module_mult_inv_to_inv1 {R : rng} {M : module R} (r : R) (x : M) : *)
-(*   r * @grinv _ x = rnginv1 r * x. *)
+Lemma module_mult_inv_to_inv1 {R : rng} {M : module R} (r : R) (x : M) :
+  r * @grinv _ x = rnginv1 r * x.
+Proof.
+  now rewrite <- module_inv_mult_to_inv1, module_inv_mult.
```
Comment (benediktahrens) [inline UniMath/Algebra/Modules/Core.v]: don't use `now`

**Comment by benediktahrens** [comment]
We now are in the situation that you anticipated, @fpvandoorn : merge conflicts from merging #816 .

File: UniMath/Algebra/Modules/Core.v (hunk 12 above)
Comment (siddharthist) [reply UniMath/Algebra/Modules/Core.v]: Out of curiosity, what's wrong with `symmetry`?

File: UniMath/Algebra/Modules/Core.v (hunk 13 above)
Comment (siddharthist) [reply UniMath/Algebra/Modules/Core.v]: And the same with `now`?

File: UniMath/Algebra/Modules/Core.v (hunk 12 above)
Comment (mortberg) [reply UniMath/Algebra/Modules/Core.v]: We had a long discussion about this at some point and I personally prefer either having our own `symmetry` tactic so that we know what proof terms it constructs. I don't thing we ever wrote such a tactic so I second Benedikt here.

File: UniMath/Algebra/Modules/Core.v (hunk 13 above)
Comment (mortberg) [reply UniMath/Algebra/Modules/Core.v]: We did implement our own `now` tactic in MoreFoundations/Tactics.v so that we could know that it would only try trivial things to solve the goal (as opposed to the `now` tactic in the Coq standard library which does all kinds of crazy things). So I don't agree with Benedikt here.

Comment (abooij) [reply UniMath/Algebra/Modules/Core.v]: Is that the one being used here, though?

Comment (mortberg) [reply UniMath/Algebra/Modules/Core.v]: Indeed, that seems wrong. The list of imports at the top of the file could just import MoreFoundations.All and we can then remove the specific imports from Foundations, plus we get the correct `now` tactic.

File: UniMath/Algebra/Modules/Core.v (hunk 12 above)
Comment (DanGrayson) [reply UniMath/Algebra/Modules/Core.v]: I just looked at the proof term constructed by `symmetry` in one of our proofs.  Here it is:
```
match X0 in (_ = y) return (y = transportf B e' (transportf B (e @ ! e') x)) with
   | idpath _ => idpath (transportf B e' (transportf B (e @ ! e') x))
   end
```

It would indeed be nicer to just have an application of `pathsinv0`.  Rewriting it in `MoreFoundations/Tactics.v` would be sensible.  Or maybe even earlier so every file in UniMath necessarily sees the redefined tactic -- but leave that to me as part of improving Foundations.

**Comment by fpvandoorn** [comment]
Updated pr. I resolved all comments. I'm still using `now`, but I import `MoreFoundations.All` in all files where I use it.

Please document all the requested changes in the style guide.

**Comment by benediktahrens** [comment]
I am pulling this now, so that work based on this PR can continue.
